US04683234
(b) 2-Nitrophenylbenzylidene-cyclopropyl methylacetoacetate
8.2 g (52.6 millimole) of Cyclopropyl methylacetoacetate and 6.6 g (43.8 millimole) of orthonitrobenzaldehyde were dissolved in 55 ml of benzene and 0.44 ml (4.38 millimole) of piperidine was added to the solution and it was dehydrated by refluxing for 15 hrs in a Dean-Stark apparatus. After removing the solvent and base under reduced pressure, the residue was purified on silica gel by chromatography to obtain 6.14 g (49%) of title product.

reactant | Cyclopropyl methylacetoacetate | 52.6 millimole, 8.2 g | CCC(CC(=O)OC1CC1)=O | C8H12O3
reactant | orthonitrobenzaldehyde | 43.8 millimole, 6.6 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | piperidine | 4.38 millimole, 0.44 ml | N1CCCCC1 | C5H11N
reactant | benzene | 55 ml | C1=CC=CC=C1 | C6H6
product | 2-Nitrophenylbenzylidene-cyclopropyl methylacetoacetate | 6.14 g, 49% | CCC(CC(=O)OC1(C(C1)=CC1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])=O | C21H19NO5
